US08563573B2
To the solution of tert-butyl 6-chloro-4-(cyclobutylethynyl)pyridin-3-ylcarbamate (2.6 g, 8.5 mmol) in DMF (50 mL) was added t-BuOK (1.9 g, 16 mmol). The reaction mixture was stirred at 90° C. for 2 h. The mixture was diluted with water and extracted with dichloromethane (3×50 mL). The extract was washed with brine, dried, concentrated in vacuo and purified by chromatography on silica gel (5-10% ethyl acetate in petroleum ether as eluant) to afford the pure product of 5-chloro-2-cyclobutyl-1H-pyrrolo[2,3-c]pyridine (0.9 g, 53% yield). 1H NMR (300 MHz, CDCl3) δ: 8.66 (br, s, 1H), 8.45 (s, 1H), 7.44 (s 1H), 6.27 (s, 1H), 3.75-3.52 (m, 1H), 2.52-1.90 (m, 6H).

reactant | tert-butyl 6-chloro-4-(cyclobutylethynyl)pyridin-3-ylcarbamate | 8.5 mmol, 2.6 g | ClC1=CC(=C(C=N1)NC(OC(C)(C)C)=O)C#CC1CCC1 | C16H19ClN2O2
reactant | t-BuOK | 16 mmol, 1.9 g | CC(C)(C)[O-].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-chloro-2-cyclobutyl-1H-pyrrolo[2,3-c]pyridine | 0.9 g, 53% yield | ClC=1C=C2C(=CN1)NC(=C2)C2CCC2 | C11H11ClN2
